US09216173B2
tert-Butyl [(1S,2R)-2-({6-carbamoyl-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl]amino)cyclohexyl}carbamate (22.5 g, 49.5 mmol) was diluted with dioxane (140 mL). To this solution was added hydrochloric acid (4.0 M in dioxane, 62 mL, 250 mmol). After 30 minutes, the reaction mixture was diluted with hexanes (400 mL) and filtered. The collected solids were dried in a nitrogen bag. The solids were diluted with dioxane (140 mL) followed by hydrochloric acid (4.0 M in dioxane, 62 mL, 250 mmol). After 1 hour, the reaction mixture was diluted with hexanes (400 mL), filtered, and washed with hexanes (2×150 mL). The isolated solids were dried under reduced pressure, and then suspended in dichloromethane (300 mL). After stirring for 3 hours, the mixture was filtered and dried in a nitrogen bag to afford 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide hydrochloric acid salt.

reactant | tert-Butyl [(1S,2R)-2-({6-carbamoyl-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl]amino)cyclohexyl}carbamate | 49.5 mmol, 22.5 g | C(N)(=O)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C24H34N6O3
reactant | hydrochloric acid | 250 mmol, 4.0 M, 62 mL | Cl | ClH
reactant | hydrochloric acid | 250 mmol, 4.0 M, 62 mL | Cl | ClH
solvent | dioxane | 140 mL | O1CCOCC1 | C4H8O2
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide hydrochloric acid salt | Cl.N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C(=O)N)NC1=NC(=CC(=C1)C)C | InChI=1S/C19H26N6O.ClH/c1-11-7-12(2)23-17(8-11)25-16-9-13(10-22-18(16)19(21)26)24-15-6-4-3-5-14(15)20;/h7-10,14-15,24H,3-6,20H2,1-2H3,(H2,21,26)(H,23,25);1H/t14-,15+;/m0./s1
